US07326791B2
N-{(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-[3-(2-chloroethyl)ureido]propyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
0.3 g (0.528 mmol) of (1S)—N-[3-amino-1-(5-chloro-1H-benzimidazol-2-yl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide is suspended in 10 mL of tetrahydrofuran and 0.1 mL (1.056 mmol) of triethylamine and, after the addition of 56 mg (0.528 mmol) of 2-chloroethyl isocyanate, stirred for 16 hours at ambient temperature. Then the solution is concentrated, the residue is taken up in dichloromethane, washed several times with water, and the combined organic extracts are dried and concentrated by evaporation. Yield: 49%; Rf value: 0.30 (silica gel; dichloromethane/ethanol=9:1); C26H30Cl2N6O3 (545.47); mass spectrum: (M+H)+=545/547 (chlorine isotope).

reactant | (1S)—N-[3-amino-1-(5-chloro-1H-benzimidazol-2-yl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | 0.528 mmol, 0.3 g | NCC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C23H26ClN5O2
reactant | triethylamine | 1.056 mmol, 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloroethyl isocyanate | 0.528 mmol, 56 mg | ClCCN=C=O | C3H4ClNO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-{(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-[3-(2-chloroethyl)ureido]propyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 49% | ClC1=CC2=C(NC(=N2)[C@H](CCNC(=O)NCCCl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C26H30Cl2N6O3
